US07737149B2
4-(3,4,6,7,8,8a-Hexahydro-1H-pyrrolo[2,1-c]pyrazin-2-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]benzamide
4-(3,4,6,7,8,8a-Hexahydro-1H-pyrrolo[2,1-c]pyrazin-2-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]benzamide was prepared as for Example 94, but starting from methyl 4-(3,4,6,7,8,8a-hexahydro-1H-pyrrolo[2,1-c]pyrazin-2-yl)benzoate (193 mg, 0.7 mmol), tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate (292 mg, 0.84 mmol) and 1M NaHMDS (1.23 ml, 1.23 mmol) in THF (5 ml). The crude product was purified by reverse phase prep. HPLC (basic) using a 33-53% gradient of acetonitrile in water, containing 1% 0.880 ammonia. The clean fractions were combined and evaporated to afford the title compound (34 mg, 10%); 1H NMR (399.9 MHz, DMSO-d6) δ 1.37-1.41 (1H, m), 1.67-1.77 (2H, m), 1.84-1.88 (1H, m), 1.99-2.06 (1H, m), 2.09 (1H, t), 2.18-2.25 (1H, m), 2.80-2.84 (1H, m), 2.87 (4H, s), 3.01-3.06 (2H, m), 3.73 (6H, s), 3.80-3.83 (1H, m), 3.96-3.98 (1H, m), 6.33 (1H, t), 6.42-6.45 (3H, m), 6.97 (2H, d), 7.90 (2H, d), 10.28 (1H, s), 12.07 (1H, s)

reactant | methyl 4-(3,4,6,7,8,8a-hexahydro-1H-pyrrolo[2,1-c]pyrazin-2-yl)benzoate | 0.7 mmol, 193 mg | C1N(CCN2C1CCC2)C2=CC=C(C(=O)OC)C=C2 | C15H20N2O2
reactant | tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate | 0.84 mmol, 292 mg | NC1=CC(=NN1C(=O)OC(C)(C)C)CCC1=CC(=CC(=C1)OC)OC | C18H25N3O4
reactant | NaHMDS | 1.23 mmol, 1M, 1.23 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-(3,4,6,7,8,8a-Hexahydro-1H-pyrrolo[2,1-c]pyrazin-2-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]benzamide | 34 mg, 10% | C1N(CCN2C1CCC2)C2=CC=C(C(=O)NC=1NN=C(C1)CCC1=CC(=CC(=C1)OC)OC)C=C2 | C27H33N5O3
